US04460508
Ethanol (2,200 ml) and 5,156 g (8.81 moles) of ethyl 2-(2-nitrophenyl)acetimidate hydrochloride were charged into a 22 liter flask. The suspension was stirred under nitrogen at room temperature and 1022.9 g (9.73 moles) of aminoacetaldehyde dimethylacetal were added all at once. The mixture was stirred for 1 hour and 1,693 ml of 12N hydrochloric acid were added all at once to cause a gentle exotherm (to 40°). Heat was then applied and the temperature was maintained at 70°-80° for 30 minutes. The solution was cooled to 20° (ice-water bath) and diluted with 2,700 ml of 10N sodium hydroxide solution to precipitate the product. The suspension was stirred at 10° for 1 hour under nitrogen atmosphere, the solid collected by filtration and washed with 3×2,000 ml of water to give 2-(2-nitrobenzyl)-imidazole, m.p. 155°-7°.

reactant | Ethanol | 2,200 ml | C(C)O | C2H6O
reactant | ethyl 2-(2-nitrophenyl)acetimidate hydrochloride | 8.81 moles, 5,156 g | Cl.[N+](=O)([O-])C1=C(C=CC=C1)CC(OCC)=N
reactant | aminoacetaldehyde dimethylacetal | 9.73 moles, 1022.9 g | COC(CN)OC | C4H11NO2
reactant | hydrochloric acid | 12N, 1,693 ml | Cl | ClH
solvent | sodium hydroxide | 10N, 2,700 ml | [OH-].[Na+]
product | 2-(2-nitrobenzyl)-imidazole | [N+](=O)([O-])C1=C(CC=2NC=CN2)C=CC=C1 | C10H9N3O2
